Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ edema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ M with chronic AF currently on Lovenox 
(previously on xarelto), metastatic prostate cancer, and recent 
admission to ___ with ___ thought to be combination 
of post-obstructive and pre-renal etiologies, with hospital 
course complicated by multiple acute-subacute CVAs presumed 
cardioembolic infarcts while patient was on brief xarelto hold 
for procedure who was referred from ___ due to poor PO intake, 
DOE and ___ edema. 

The patient states that he had mild LLE edema at discharge on 
___, which he initially attributed to a chronic LLE cyst. 
However, he noted increasing ___ edema since ___, with 
RLE edema particularly worsening since yesterday. He denies any 
SOB at rest or with exertion but is endorsing minimal exertion 
as walking is painful due to ___ swelling. Denies fevers, chills, 
HAs, abdominal pain. Reports regular bowel movements with no 
dark tarry stools or blood. Denies dysuria and hematuria, notes 
occasional hesitancy with urination. Also endorsing poor 
appetite and minimal PO intake. He presented to his Oncologists 
office today who reportedly was concerned about his worsening 
edema and referred him to the ___. In the CDAC, he was grossly 
overloaded with 3+ edema bilaterally and elevated JVD. He was 
therefore admitted to the ___ service for diuresis and further 
management.

Of note, TTE obtained during last admission ___ showed LVEF 
~55% and 2+ MR. ___ that admission, he notably received 
multiple boluses of IV fluids while hospitalized. Patient also 
has known hydronephrosis on renal US and Cr on discharge was 
2.1, which was improved to 1.5 in CDAC today He is otherwise HD 
stable and on room air.

On the floor, he endorses the above history and denies CP, SOB, 
DOE.  
 
 
REVIEW OF SYSTEMS:  
Positive per HPI.  

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea 
palpitations, syncope, or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any prior history of pulmonary embolism, bleeding at the time of 
surgery, myalgias, joint pains, cough, hemoptysis, black stools 
or red stools. Denies exertional buttock or calf pain. All of 
the other review of systems were negative. 
 
Past Medical History:
PAST MEDICAL HISTORY:  
1. CARDIAC RISK FACTORS: 
No ___ DM, HTN, HLD
   
2. CARDIAC HISTORY     
- Atrial fibrillation on AC with LVX, previously on xarelto 

3. OTHER PAST MEDICAL HISTORY  
Vein stripping procedure done in ___ in ___
Metastatic prostate cancer
 

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. Denies history of GU malignancies 
including prostate, kidney, bladder cancer

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=========================
VS: 98.3 PO 111 / 76 R Lying 84 18 97 Ra 
GENERAL:  NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.  

NECK: Supple. JVP of 12 cm.  
CARDIAC: regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops
LUNGS: No chest wall deformities or tenderness. Exam limited due 
to pain in spine, reduced breath sounds at bases 
ABDOMEN: Soft, non-tender, non-distended 
EXTREMITIES: Warm, well perfused. B/L ___ edema ___ pitting to 
knees
SKIN: No significant skin lesions or rashes.  
PULSES: Unable to palpate b/l distal pulses due to ___ edema

DISCHARGE PHYSICAL EXAM
========================
24 HR Data (last updated ___ @ 1142)
    Temp: 98.3 (Tm 98.5), BP: 93/65 (93-122/64-85), HR: 90
(76-92), RR: 18, O2 sat: 96% (95-97), O2 delivery: Ra, Wt: 
151.01
lb/68.5 kg  
Fluid Balance (last updated ___ @ 842) 
  Last 8 hours  Total cumulative -95ml
    IN: Total 180ml, PO Amt 180ml
    OUT:  Total 275ml, Urine Amt 275ml
  Last 24 hours  Total cumulative -645ml
    IN: Total 780ml, PO Amt 780ml
    OUT:  Total 1425ml, Urine Amt 1425ml  
GENERAL:  NAD. Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.  

NECK: Supple. JVP of 10cm.  
CARDIAC: regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops
LUNGS: No chest wall deformities or tenderness. Exam limited due
to pain in spine, reduced breath sounds at bases 
ABDOMEN: Soft, non-tender, non-distended 
EXTREMITIES: Warm, well perfused. B/L ___ edema 1+ pitting to
knees
SKIN: No significant skin lesions or rashes.  
PULSES: Unable to palpate b/l distal pulses due to ___ edema. 
 

 
Pertinent Results:
ADMISSION LABS
===============
___ 10:40AM BLOOD WBC-7.8 RBC-3.91* Hgb-12.3* Hct-35.8* 
MCV-92 MCH-31.5 MCHC-34.4 RDW-13.2 RDWSD-43.6 Plt ___
___ 10:40AM BLOOD Neuts-81.4* Lymphs-8.5* Monos-8.6 
Eos-0.5* Baso-0.1 Im ___ AbsNeut-6.35* AbsLymp-0.66* 
AbsMono-0.67 AbsEos-0.04 AbsBaso-0.01
___ 06:55AM BLOOD ___ PTT-29.5 ___
___ 10:40AM BLOOD UreaN-22* Creat-1.5* Na-126* K-4.0 Cl-91* 
HCO3-25 AnGap-10
___ 10:40AM BLOOD ALT-35 AST-27 AlkPhos-709* TotBili-0.5
___ 10:40AM BLOOD Mg-2.0
___ 10:40AM BLOOD Calcium-8.5
___ 10:40AM BLOOD Testost-305
___ 10:40AM BLOOD PSA-1897*

URINE
=====
___ 05:00PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:00PM URINE RBC-2 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 05:00PM URINE Color-Straw Appear-Clear Sp ___

DISCHARGE LABS
===============
___ 07:36AM BLOOD WBC-4.7 RBC-3.66* Hgb-11.5* Hct-33.2* 
MCV-91 MCH-31.4 MCHC-34.6 RDW-13.2 RDWSD-43.4 Plt ___
___ 07:36AM BLOOD ___ PTT-31.6 ___
___ 07:36AM BLOOD Glucose-100 UreaN-25* Creat-1.7* Na-134* 
K-4.0 Cl-92* HCO3-29 AnGap-13
___ 07:36AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.0

IMAGING
========
___ RENAL US
IMPRESSION:  
Unchanged mild to moderate bilateral hydronephrosis. 

 
Brief Hospital Course:
Mr. ___ was a ___ man with history of atrial 
fibrillation on LVX (previously on Xarelto) and newly diagnosed 
metastatic prostate cancer who was recently admitted for 
fatigue, weakness, and ___, and was found to have multiple 
acute-subacute CVAs while ___ was held for prostate biopsy 
who presented with with poor PO intake and ___ edema. Patient was 
grossly volume overloaded on exam with ___ ___ edema, and 
elevated JVP and was presumed to have HFpEF exacerbation with 
chemo for metastatic prostate ca also likely contributing to ___ 
edema. He was diuresed with multiple boluses of Lasix ___ 
edema improved and was discharged home on 20 mg PO torsemide 
daily. Discharge Cr was 1.7 and discharge weight was 68.5 kg,

# CORONARIES: Unknown 
# PUMP: EF>55%
# RHYTHM: Afib on lovenox 

ACTIVE ISSUES:  
==============  
___ EDEMA
#PRESUMED HFpEF EXACERBATION
Patient p/w worsening ___ swelling since discharge ___ edema that 
was impairing his ability to walk due to pain. Patient denied 
SOB/DOE but was grossly overloaded on examination with elevated 
JVP and ___ edema that was felt to be due to HFpEF exacerbation 
in the setting of recent admission for acute renal
failure and IV hydration. Renal obstructive test was ruled out 
as patient's creatinine had improved since last discharge and 
renal US with mild to moderate hydronephrosis that had not 
worsened since admission. Patient was diuresed with multiple 
lasix boluses with improvement in ___ edema with mild ___ edema 
persisting, likely as an adverse effect of chemotherapeutic 
agents. He was discharged on 20 mg torsemide  daily. Discharge 
Cr was 1.7 and discharge weight was 68.5 kg. His home Lopressor 
12.5 mg daily was continued.

CHRONIC ISSUES:  
==============  
# MULTIFOCAL SUBACUTE CVAs
# POSSIBLE LEFT SIGMOID SINUS THROMBUS
Patient with ___ central embolic source of CVAs, likely 
precipitated by a-fib or malignancy-related hypercoagulable 
state in setting of being off rivaroxaban for prostate biopsy. 
No significant deficits on neurological exam in last admission. 
He was continued on LVX for anticoagulation

# METASTATIC PROSTATE CANCER
# DIFFUSE OSSEOUS LESIONS
Patient with ___ urinary retention and PSA >700. s/p biopsy on 
___ with high grade prostate adenocarcinoma. MRI L-spine with 
extensive osseous lesions of the spine now with diffuse 
weakness. Pt was started on Lupron on ___. He was continued on 
bicalutamide with oxycodone, Tylenol for pain.

# ATRIAL FIBRILLATION
Patient had previously been on flecainide and failed 
cardioversion. Now rate controlled on Lopressor 12.5mg daily. 
Previously on xarelto that was switched to LVX that was 
continued this hospitalization given CVAs and L sigmoid sinus 
thrombosis in last admission

TRANSITIONAL ISSUES
====================
#NEW MEDS: 20mg torsemide daily
#CHANGED MEDS: None
#DISCONTINUED MEDS: None

[]F/u with cardiology and hematology/oncology
#CODE: full (presumed)
#CONTACT: ___ (wife: ___
Discharge wt: 68.5kg
Discharge Cr: 1.7

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Casodex (bicalutamide) 50 mg oral DAILY 
2. Enoxaparin Sodium 60 mg SC Q12H 
3. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line 
4. Senna 17.2 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Lidocaine 5% Patch 1 PTCH TD QPM 
8. OxyCODONE (Immediate Release) 2.5 mg PO Q3H:PRN Pain - Severe 


 
Discharge Medications:
1.  Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth DAILY Disp #*30 Tablet 
Refills:*0 
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Second Line  
3.  Casodex (bicalutamide) 50 mg oral DAILY  
4.  Enoxaparin Sodium 60 mg SC Q12H  
5.  Lidocaine 5% Patch 1 PTCH TD QPM  
6.  Metoprolol Succinate XL 12.5 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 2.5 mg PO Q3H:PRN Pain - 
Severe  
8.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
9.  Senna 17.2 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
___ EDEMA
ACUTE HFpEF EXACERBATION

SECONDARY DIAGNOSIS
=====================
MULTIFOCAL SUBACUTE CVAs
POSSIBLE LEFT SIGMOID SINUS THROMBUS
METASTATIC PROSTATE CANCER
DIFFUSE OSSEOUS LESIONS
ATRIAL FIBRILLATION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 It was a pleasure taking care of you at the ___ 
___!  
 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted to the hospital because had swelling in 
your legs. This was felt to be due to a condition called heart 
failure, where your heart does not pump hard enough and fluid 
backs up into your legs.
  
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 -  You were given a diuretic medication through the IV to help 
get the fluid out. You improved considerably and were ready to 
leave the hospital. You were started on a new medication 
(torsemide) to help prevent fluid from building up again in your 
legs. 
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
- Your weight at discharge is 68.5 kg (151 lbs). Please weigh 
yourself today at home and use this as your new baseline  
 - Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  

 
 
Followup Instructions:
___